US07553854B2
To a solution of the (4-(2-(cyclohexylmethylamino)benzo[d]oxazol-6-yloxy)pyridin-2-yl)methanol (20 mg, 0.057 mmol, 1.0 eq) in 2 mL of THF was added triphenyl phosphine (22 mg, 0.085 mmol, 1.5 eq), phthalimide (12.5 mg, 0.085 mmol, 1.5 eq) and diisopropyl azodicarboxylate (17 mg, 0.085 mmol, 1.5 eq) at room temperature. The reaction mixture was stirred at that temperature for 16 hours. Then the solvent was removed. The crude product was purified by preparative TLC sheet to give 2-((4-(2-(cyclohexylmethylamino)benzo[d]oxazol-6-yloxy)pyridin-2-yl)methyl)isoindoline-1,3-dione.

reactant | (4-(2-(cyclohexylmethylamino)benzo[d]oxazol-6-yloxy)pyridin-2-yl)methanol | 0.057 mmol, 20 mg, 1.0 eq | C1(CCCCC1)CNC=1OC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)CO | C20H23N3O3
reactant | triphenyl phosphine | 0.085 mmol, 22 mg, 1.5 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 0.085 mmol, 12.5 mg, 1.5 eq | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diisopropyl azodicarboxylate | 0.085 mmol, 17 mg, 1.5 eq | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-((4-(2-(cyclohexylmethylamino)benzo[d]oxazol-6-yloxy)pyridin-2-yl)methyl)isoindoline-1,3-dione | C1(CCCCC1)CNC=1OC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)CN2C(C1=CC=CC=C1C2=O)=O | C28H26N4O4
